US06008245
A reaction mixture of 100 g (0.65 mol) of 2,5-dihydroxyacetophenone in 1 l of acetonitrile, 130 ml (1.55 mol) of pyrrolidine and 290 ml (3.95 mol) of acetone was heated at 45° C. for 8 h. The sol. were then removed i. vac. and the residue was dissolved in 1 l of EA. The organic phase was washed twice with dilute hydrochloric acid, stirred with activated carbon and dried over magnesium sulfate and substantially concentrated. The residue was stirred with petroleum ether and the precipitate was filtered off with suction giving 102 g of 2,2-dimethyl-6-hydroxychroman-4-one, m.p. 161° C.

reactant | 2,5-dihydroxyacetophenone | 0.65 mol, 100 g | CC(=O)C1=C(C=CC(=C1)O)O | C8H8O3
reactant | pyrrolidine | 1.55 mol, 130 ml | N1CCCC1 | C4H9N
reactant | acetone | 3.95 mol, 290 ml | CC(=O)C | C3H6O
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
product | 2,2-dimethyl-6-hydroxychroman-4-one | 102 g | CC1(OC2=CC=C(C=C2C(C1)=O)O)C | C11H12O3
